US09290467B2
E) (E)-(S)-19-Chloro-5-oxo-12,17-dioxa-4-aza-tricyclo[16.2.2.0*6,11*]docosa-1(21),6,8,10,14,18(22),19-heptaene-3-carboxylic acid methyl ester
In a 250 mL three-necked flask, Grubbs II catalyst (56.3 mg, 66.3 μmol, Eq: 0.30) was combined with dry DCM (50 mL) to give a brown solution. The reaction mixture was heated to 50° C. (reflux) under argon atmosphere. (S)-methyl 3-(4-(allyloxy)-3-chlorophenyl)-2-(2-(allyloxy)benzamido)propanoate (95 mg, 221 μmol, Eq: 1.00) dissolved in dry DCM (30 mL) was added dropwise. The reaction mixture was stirred at 50° C. for 2 h under argon atmosphere. The reaction mixture was stirred for 1 h at 50° C. to drive the reaction to completion. The crude reaction mixture was concentrated in vacuo and purified by flash chromatography (silica gel, 10 g, n-heptane/AcOEt 4/1, 3/1) to yield a brown oil (42 mg; 47%). m/z=402.2 [M+H]+.

reactant | (S)-methyl 3-(4-(allyloxy)-3-chlorophenyl)-2-(2-(allyloxy)benzamido)propanoate | 221 μmol, 95 mg | C(C=C)OC1=C(C=C(C=C1)C[C@@H](C(=O)OC)NC(C1=C(C=CC=C1)OCC=C)=O)Cl | C23H24ClNO5
catalyst | Grubbs II | 66.3 μmol, 56.3 mg | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (E)-(S)-19-Chloro-5-oxo-12,17-dioxa-4-aza-tricyclo[16.2.2.0*6,11*]docosa-1(21),6,8,10,14,18(22),19-heptaene-3-carboxylic acid methyl ester | COC(=O)[C@@H]1CC=2C=C(C(OC/C=C/COC3=CC=CC=C3C(N1)=O)=CC2)Cl | C21H20ClNO5
